US05508293
5-Hydroxynicotinamide (0.69 g, 5 mmol) prepared by the method described in International Patent Publication No. 8606628 was dissolved in pyridine (50 ml). Trifluoroacetic anhydride (2.52 g, 12 mmol) was added, and the mixture was stirred at 0° C. for 20 hours. The reaction mixture, to which water (20 ml) was added, was concentrated under reduced pressure and extracted with chloroform (50 ml×3). The chloroform layer was washed with water (50 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give a residue. The residue was purified by silica gel column chromatography (Wako Gel C-200, 20 g; eluted with chloroform:methanol=100:1) to give 3-cyano-5-hydroxypyridine (0.42 g, 3.5 mmol) (Yield 70%).

reactant | 5-Hydroxynicotinamide | 5 mmol, 0.69 g | OC=1C=NC=C(C(=O)N)C1 | C6H6N2O2
reactant | Trifluoroacetic anhydride | 12 mmol, 2.52 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 20 ml | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3-cyano-5-hydroxypyridine | 3.5 mmol, 0.42 g, Yield 70% | C(#N)C=1C=NC=C(C1)O | C6H4N2O
